US04107326
1-Benzyl-3-(2,6-dichlorobenzylideneamino)guanidine
A solution of 93.6 g of methyl 3-(2,6-dichlorobenzylidene)thiocarbazimidate hydroiodide (U.S. Pat. No. 3,657,337) and 51.2 of benzylamine in 400 ml. of absolute ethanol is heated at reflux for 6 hours and then diluted while hot with 400 ml. of water, causing the separation of an oil. On standing, the oil crystallizes and the nearly colorless crystals are recovered by filtration. Recrystallization from aqueous ethanol gives the desired product as pale yellow crystals, m.p. 134°-137° C.

reactant | methyl 3-(2,6-dichlorobenzylidene)thiocarbazimidate hydroiodide | 93.6 g | I.ClC1=C(C=NNC(SC)=N)C(=CC=C1)Cl
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-Benzyl-3-(2,6-dichlorobenzylideneamino)guanidine | C(C1=CC=CC=C1)NC(=N)NN=CC1=C(C=CC=C1Cl)Cl | C15H14Cl2N4
